US05932601
In substantially the same manner as in Working Example 11, (E,E)-5-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2,4-pentadien-1-al was condensed with 2,4-oxazolidinedione. The condensate was subjected to catalytic hydrogenation to yield 5-[5-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]pentyl]-2,4-oxazolidinedione. The product was recrystallized from dichloromethane-ether to give colorless prisms, m.p.114-115° C.

reactant | (E,E)-5-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2,4-pentadien-1-al | COC=1C=C(C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1)/C=C/C=C/C=O | C23H21NO4
reactant | 2,4-oxazolidinedione | O1C(NC(C1)=O)=O | C3H3NO3
product | 5-[5-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]pentyl]-2,4-oxazolidinedione | COC=1C=C(C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1)CCCCCC1C(NC(O1)=O)=O | C26H28N2O6
